US07893112B2
A solution of (S)-methyl 2-(benzyloxycarbonylamino)-5-cyclopropyl-4,4-difluoropentanoate (570 mg, 1.87 mmol) in dioxane/4N—HCl (9 mL, 37 mmol) was stirred at RT for two hr, after which the solvent was removed by rotoevaporation to give 450 mg of (S)-methyl 2-amino-5-cyclopropyl-4,4-difluoropentanoate hydrochloride as a beige solid.

reactant | (S)-methyl 2-(benzyloxycarbonylamino)-5-cyclopropyl-4,4-difluoropentanoate | 1.87 mmol, 570 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)CC(CC1CC1)(F)F | C17H21F2NO4
reactant | HCl | 37 mmol, 9 mL | Cl | ClH
solvent | dioxane | 4N | O1CCOCC1 | C4H8O2
product | (S)-methyl 2-amino-5-cyclopropyl-4,4-difluoropentanoate hydrochloride | 450 mg | Cl.N[C@H](C(=O)OC)CC(CC1CC1)(F)F | InChI=1S/C9H15F2NO2.ClH/c1-14-8(13)7(12)5-9(10,11)4-6-2-3-6;/h6-7H,2-5,12H2,1H3;1H/t7-;/m0./s1
